US06103910
c) (R)-1-[[4-[2-[(R)-2-Benzyloxycarbonyl-pyrrolidin-1-yl]-2-oxo-ethyl]-naphthalen-1-yl]-acetyl]-pyrrolidine-2-carboxylic acid benzyl ester
Using General Procedure A with 200 mg (0.82 mmol) D-Proline benzyl ester hydrochloride and 100 mg (0.41 mmol) (4-carboxymethyl-naphthalen-1-yl)-acetic acid afforded, after flash chromatography (EtOAc), 188 mg (75%) of the title compound as a colorless oil.

reactant | D-Proline benzyl ester hydrochloride | 0.82 mmol, 200 mg | Cl.C(C1=CC=CC=C1)OC([C@@H]1NCCC1)=O
reactant | (4-carboxymethyl-naphthalen-1-yl)-acetic acid | 0.41 mmol, 100 mg | C(=O)(O)CC1=CC=C(C2=CC=CC=C12)CC(=O)O | C14H12O4
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (R)-1-[[4-[2-[(R)-2-Benzyloxycarbonyl-pyrrolidin-1-yl]-2-oxo-ethyl]-naphthalen-1-yl]-acetyl]-pyrrolidine-2-carboxylic acid benzyl ester | 188 mg, 75% | C(C1=CC=CC=C1)OC(=O)[C@@H]1N(CCC1)C(CC1=CC=C(C2=CC=CC=C12)CC(=O)N1[C@H](CCC1)C(=O)OCC1=CC=CC=C1)=O | C38H38N2O6
